US05194631
In an autoclave made of metal were placed 18 g of ortho-chlorobenzotrifluoride, 3.5 mg of palladium chloride, 170 mg of bisdiphenylphosphinobutane and 3.1 g of potassium carbonate. The air in the autoclave was replaced with carbon monoxide introduced thereinto in several times, after which carbon monoxide was further introduced to adjust its pressure therein to 30 kg/cm2. The reaction was carried out with stirring on a salt bath at a bath temperature of 240° C. After completion of the reaction, the reaction mixture was cooled to room temperature and water was added. The aqueous layer was separated and then acid was added thereto, followed by extraction from the aqueous layer. The ether layer was dried and then concentrated to obtain 3.9 g of ortho-trifluoromethylbenzoic acid.

reactant | ortho-chlorobenzotrifluoride | 18 g | ClC1=C(C=CC=C1)C(F)(F)F | C7H4ClF3
reactant | potassium carbonate | 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium chloride | 3.5 mg | [Pd](Cl)Cl
catalyst | bisdiphenylphosphinobutane | 170 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C(C)C(C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
solvent | water | O | H2O
product | ortho-trifluoromethylbenzoic acid | 3.9 g | FC(C1=C(C(=O)O)C=CC=C1)(F)F | C8H5F3O2
